Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Rifampin / Levofloxacin / Pyrazinamide / Ampicillin 
Sodium/Sulbactam Na / Tylenol / Benadryl / Ceftriaxone / 
Azithromycin / Quinolones / Vancomycin / Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is an ___ w h/o HTN, Pott's disease, CKD (Cr ~1.2), 
peripheral neuropathy, gout, who now p/w SOB x 3 days. 
.
Pt was in his USOH until ~3 days ago, when he noted new-onset 
SOB while attending his granddaughter's wedding in ___. SOB 
is with minimal exertion, used to be able to walk for 1 
hour/day. Had an episode PND as well. Noticed ? mild increase in 
his weight, despite decreased appetite. No F/C, no CP, no cough, 
no abd pain, no N/V/D, reg BMs, no urinary sxs. Denies sick 
contacts, though he met a lot of people at the wedding.
.
In the ED, his vitals were 97.0, 55, 141/73, 21, 93-97% on RA. 
On exam his lungs were clear, mild ___ edema noted. Labs showed 
no leukocytosis, but CXR w LLL infiltrate. D/w ID given 
extensive abx allergies and started on doxycycline 100mg. Trp 
0.04, Ck 79, BNP 28K. 
No diuretics given ARF, Cr 1.6 up from 1.2.
.
On transfer to floor, pt feels good, denies CP/SOB. Asking lots 
of questions about his conditions.
 
Past Medical History:
- Hx of pulm TB as a teenager, s/p 18 months TB therapy  
- Pott's dz s/p 18 months of TB therapy and L1-L2 removal with 
rod placement (___)
- Stage III CKD - baseline Cr 1.2 (CrCl 30cc/hr), ___ rapidly 
progressive glomerulonephritis and allergic interstitial 
nephritis ___ rifampin.  
- HTN  
- Hypothyroid  
- Prostate CA s/p XRT, radiation proctitis  
- H/o cellulitis of right foot, tx with minocycline  
- H/o UTIs
- Chronic peripheral neuropathy of unknown etiology  
- ___ syndrome ___ Tylenol  
- Benign pancreatic mass (calcified adenoma of pancreatic head)
 
Social History:
___
Family History:
Mom: TB 
 
Physical ___:
VS: 98.6, 139/47, 50, 20, 94% on RA
GEN: pleasant gentleman, lying in bed supine in NAD
HEENT: NC/AT, PERRL, EOMI, MMM, OP clear
NECK: supple, no LAD, JVP 8-9 cm
CV: tachycardia, normal S1S2, no M/R/G
CHEST: +crackles, min diffuse exp wheezes
ABD: soft, NT/ND, no HSM, NABS
EXTR: WWP, 1+ pitting edema b/l, 2+ DP/rad pulses b/l
NEURO: AOx3, CNII-XII intact, ___ Motor strength in ___ b/l, 
2+ DTR in ___, stance and gait deferred

 
Pertinent Results:
LABS ON ADMISSION:
___ 12:40PM BLOOD WBC-6.5 RBC-3.91* Hgb-10.9* Hct-32.2* 
MCV-82 MCH-27.9 MCHC-33.9 RDW-16.0* Plt ___
___ 12:40PM BLOOD Neuts-77.1* Lymphs-15.8* Monos-5.7 
Eos-1.0 Baso-0.4
___ 01:35PM BLOOD ___ PTT-29.8 ___
___ 12:40PM BLOOD Glucose-110* UreaN-29* Creat-1.6* Na-140 
K-4.1 Cl-105 HCO3-25 AnGap-14
___ 11:55PM BLOOD Calcium-8.8 Phos-4.4 Mg-2.0
.
LABS ON DISCHARGE:
___ 05:20AM BLOOD WBC-6.5 RBC-4.23* Hgb-11.7* Hct-35.7* 
MCV-84 MCH-27.7 MCHC-32.8 RDW-15.5 Plt ___
___ 05:20AM BLOOD Glucose-89 UreaN-24* Creat-1.3* Na-143 
K-4.1 Cl-105 HCO3-26 AnGap-16
.
CARDIAC:
___ 12:40PM BLOOD cTropnT-0.04*
___ 12:40PM BLOOD CK(CPK)-79
___ 11:55PM BLOOD CK-MB-NotDone cTropnT-0.04*
___ 11:55PM BLOOD CK(CPK)-58
___ 12:40PM BLOOD CK-MB-NotDone ___
.
___ 01:35PM BLOOD D-Dimer-554*
___ 12:40PM BLOOD TSH-3.8
.
URINE:
___ 10:13PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:13PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-15 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:13PM URINE ___ Bacteri-FEW Yeast-NONE 
___ 10:13PM URINE Hours-RANDOM UreaN-647 Creat-78 Na-87
.
MICRO:
Bl Cx - ___ NG x48hrs
Urine Legionella negative
.
CARDIOLOGY:
EKG (___):
Sinus tachycardia with ventricular premature complexes 
Left ventricular hypertrophy by voltage 
Modest ST-T wave changes are nonspecific 
.
TTE (___):
Conclusions  
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Regional left 
ventricular wall motion is normal. There is mild global left 
ventricular hypokinesis (LVEF = 50%), although this may be a 
slight underestimation in the setting of frequent ventricular 
ectopy. Right ventricular chamber size and free wall motion are 
normal. The aortic root is moderately dilated at the sinus 
level. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
IMPRESSION: Symmetric LVH with mild global systolic dysfunction. 
Mild mitral and tricuspid regurgitatin. Moderate pulmonary 
hypertension. Frequent ventricular ectopy.
Compared with the report of the prior study (images unavailable 
for review) of ___, LV function appears to have 
deteriorated slightly, but the effect may be partially secondary 
to frequent VEA. Pulmonary pressures are higher.   
.
RADIOLOGY: 
CXR (___): IMPRESSION: Developing left basilar pneumonia.
.
Chest CT w/o contrast (___): 
IMPRESSION: 
1. New pneumonia in the left lower lobe. 
2. Right upper lobe nodular opacity that most likely is 
infectious, but 
should be followed to resolution in three months to exclude the 
possibility of 
neoplastic process. 
3. Pulmonary hypertension. Slightly enlarged ascending aorta up 
to 4.2 cm. 
4. Known pancreatic mass, partially imaged. 
5. Known wedge thoracic fracture and orthopedic hardware. 
.
___ U/S B/l (___):
IMPRESSION: No evidence of DVT in the bilateral legs.
 
Brief Hospital Course:
In short, Mr ___ is an ___ w h/o HTN, Pott's disease, CKD (Cr 
~1.2), peripheral neuropathy, gout, who now p/w SOB x 3 days.  
.  
# Shortness of breath: Unclear etiology, though likely CAP 
(given LLL infiltrate on CXR/Chest CT, though no F/C, no cough, 
no leukocytosis) and acute diastolic CHF exacerbation (BNP 
281___, JVP elev, ___ edema, last TTE in ___. Repeat TTE showed 
LVEF 50%, incrased TR gradient. PE also considered given recent 
flight, elevated d-dimer 554, and EKG w sinus tachy and TWI in 
V3 on admission, but LENYs negative for DVT and improvement w tx 
of CHF/PNA. Cardiac ischemia low suspicion, only risk factor is 
hypertension, no chest pain. CE negative x2. Pt has baseline 
mild baseline restrictive pulm disease per spirometry from ___, 
thought CT shows minimal interstitial disease. PNA treated w 
doxycycline 100mg BID for a 5-day course (through ___, given 
extensive abx allergy. CHF exacerbation treated w furosemide 
10mg IV and hemodynamic stabilization. Outpatient ACEi/Bbl 
should be considered - not started as inpatient given ARF and 
pulmonary concerns. Pt instructed to eat low-salt diet and f/u w 
PCP next week.
.  
# Acute on chronic renal failure: Possibly prerenal in the 
setting of acute process. Cr 1.6 on admission, baseline Cr 1.2. 
BUN/Cr ___ > 15:1. GFR ~40. Pt was on temporary HD in the 
past. NSAID started recently. Cr improved to 1.3 on discharge w 
mild diuresis/hemodynamic stabilization. 
.  
# Anemia: ___ iron-deficiency. Baseline Hct ___, Hct 32 on 
admission. MCV 82, RDW 16, 1+ microcytosis. Retic index < 2%. 
Held iron given doxycycline treatment.
.  
# Hypothyroidism: TSH 3.4 in ___, but has been uptrending 
recently. TSH still wnl.
Continued levothyroxin.  
.  
# Gout: S/p recent prednisone treatment, continued indomethacin, 
colchicine, allopurinol.  
.  
# HTN: Per h/o, but not on antihypertensive medications. SBP 
170s on admission. Started on amlodipine 5mg PO daily. 
.  
# Code: FULL  
# Communication: ___ ___ 
 
Medications on Admission:
Allopurinol ___ PO daily  
Colchicine 0.6mg PO every other day  
Indomethacin 50mg PO daily  
Folate/B6/B12 - 2.5/25/2mg 1 tab PO daily  
Levothyroxin 50mcg PO daily  
Omeprazole 20mg PO daily  
Risedronate (Actonel) 35mg PO weekly  
Calcium citrate - vitamin D3 - 630mg/400u PO daily  
Fe gluconate 324mg PO BID - do not take with 
Risedronate/L-thyroxine  
 
Discharge Medications:
1. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 5 doses: 5-day-course through ___.
Disp:*5 Capsule(s)* Refills:*0*
2. Allopurinol ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO QOD ().  
4. Indomethacin 25 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Foltx 2.5-25-2 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
community-acquired pneumonia
mild acute on chronic diastolic congestive heart failure 
exacerbation
acute on chronic kidney failure
hypertension
.
gout

 
Discharge Condition:
stable, on room air

 
Discharge Instructions:
You were admitted to the hospital with shortness of breath, 
which we think was likely caused by a combination of pneumonia 
(lung infection), mild congestive heart failure as well as 
possible lung disease at baseline. We treated you with 
antibiotics and supportive measures.
.
We changed your medications as follows:
1. started you on a 5-day doxycycline course (through ___ for 
pneumonia
2. started you on amlodipine 5mg daily for your blood pressure
3. stopped your iron temporarily, while you are on doxycycline, 
please talk to your primary care physician about restarting it
4. continued your other medications
.
If you have fevers, chills, shortness of breath, chest pain, 
diarrhea, nausea, vomiting or any other concerning symptoms, 
please call your physician.
 
Followup Instructions:
___